US08084449B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)-2,6-pyridinedicarboxamide
Process (B) In an alternate preparation of the titled compound, to a solution of 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylic acid (45 mg, 0.1 mmol) in DMSO (1 mL) was added 1-{3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methanamine (28 mg, 0.095 mmol), HBTU (42 mg, 0.11 mmol) and Et3N (0.021 mL, 0.15 mmol) in DCM (3 mL). The resulting mixture was stirred at room temperature for 18 h. The reaction was quenched with H2O (2 drops), purified with a Gilson HPLC (with 0.1% TFA), concentrated, re-dissolved in EtOAc, washed with NaOH (1N), dried over Na2SO4, filtered, concentrated and dried with a high vacuum oil pump to afford the title compound as a white solid 38.5 mg (53%). LC-MS m/z 729 (M+H)+.

reactant | 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylic acid | 0.1 mmol, 45 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=CC(=N2)C(=O)O)CC | C23H28N6O4
reactant | 1-{3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methanamine | 0.095 mmol, 28 mg | CN1CCC(CC1)CC=1C=C(C=CC1)C1=CC(=CC=C1)CN | C20H26N2
reactant | HBTU | 0.11 mmol, 42 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.15 mmol, 0.021 mL | CCN(CC)CC | C6H15N
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)-2,6-pyridinedicarboxamide | 38.5 mg, 53% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CC2CCN(CC2)C)CC | C43H52N8O3
